US05338740
F. 2-Butyl-5-chloro-1-{5-[2-(1H-tetrazol-5-yl)-phenyl]-indan-1-yl}-1H-imidazole-4-carboxylic acid ethyl ester
A mixture of 2-butyl-5-chloro-1-[5-(2-cyano-phenyl)-indan-1-yl]-1H-imidazole-4-carboxylic acid ethyl ester (177 mg, 0.41 mmol) and trimethyltin azide (108 mg, 0.5 mmol) was heated in toluene (1.0 mL)for 72 hours. The reaction mixture was cooled to room temperature and concentrated in vacuo. The residue was chromatographed on SiO2 -gel using a gradient of 2% MeOH/CH2Cl2 to 15% MeOH/CH2Cl2 to give 50 mg of a colorless oil.

reactant | 2-butyl-5-chloro-1-[5-(2-cyano-phenyl)-indan-1-yl]-1H-imidazole-4-carboxylic acid ethyl ester | 0.41 mmol, 177 mg | C(C)OC(=O)C=1N=C(N(C1Cl)C1CCC2=CC(=CC=C12)C1=C(C=CC=C1)C#N)CCCC | C26H26ClN3O2
reactant | trimethyltin azide | 0.5 mmol, 108 mg | C[Sn](C)(C)N=[N+]=[N-]
solvent | toluene | 1.0 mL | C1(=CC=CC=C1)C | C7H8
product | 2-Butyl-5-chloro-1-{5-[2-(1H-tetrazol-5-yl)-phenyl]-indan-1-yl}-1H-imidazole-4-carboxylic acid ethyl ester | 50 mg | C(C)OC(=O)C=1N=C(N(C1Cl)C1CCC2=CC(=CC=C12)C1=C(C=CC=C1)C1=NN=NN1)CCCC | C26H27ClN6O2
